US09085555B2
1-{2-Oxo-2-[(S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidin-1-yl]-ethyl}-1H-indole-3-carboxylic acid amide
1-{2-oxo-2-[(S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidin-1-yl]-ethyl}-1H-indole-3-carboxylic acid (11 mg, 0.023 mmol), was treated with PyBOP (12 mg, 0.023 mmol), HOBt (3.54 mg, 0.023 mmol), DIPEA (16 μL, 0.092 mmol), and NH4Cl (1 mg, 0.069 mmol) in DMF (1 mL) and the reaction mixture was stirred at RT under nitrogen for 3 h, then poured into an aqueous saturated solution of NaHCO3, EtOAc (20 mL) was added and the layers were separated. The aqueous layer was back-extracted twice with EtOAc and the combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by preparative HPLC (Waters SunFire C18-ODB, 5 μm, 19×50 mm, 20% CH3CN/H2O 2.5 min, 20-100% CH3CN/H2O in 10 min, CH3CN/H2O containing 0.1% HCOOH flow: 20 mL/min) to give after lyophilization of the purified fractions the desired compound. TLC, Rf (CH2Cl2/MeOH 95:5)=0.17; MS (LC/MS): 473.2 [M−H]−; tR (HPLC conditions a): 3.24 min.

reactant | 1-{2-oxo-2-[(S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidin-1-yl]-ethyl}-1H-indole-3-carboxylic acid | 0.023 mmol, 11 mg | O=C(CN1C=C(C2=CC=CC=C12)C(=O)O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C23H20F3N3O5
reactant | PyBOP | 0.023 mmol, 12 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.023 mmol, 3.54 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.092 mmol, 16 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | 0.069 mmol, 1 mg | [NH4+].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 1-{2-Oxo-2-[(S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidin-1-yl]-ethyl}-1H-indole-3-carboxylic acid amide | O=C(CN1C=C(C2=CC=CC=C12)C(=O)N)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C23H21F3N4O4
